US08633237B2
e) (S)-methyl 3-((2-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate
To (S)-benzyl 5-(chloromethyl)-2,3-dihydro-1H-inden-2-ylcarbamate (7.09 mmol, 2.24 g) in THF (44.9 mL) was added methyl 3-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-5-(trifluoromethyl)benzoate (7.09 mmol, 2.242 g), Bromo(N-succinimidyl)bis-(triphenylphosphine)palladium(II) (0.355 mmol, 0.287 g) and sodium carbonate (45.0 mmol, 22.5 mL). The reaction was heated to 80° C. for 4 hrs. DCM was added before washing with water (×1) followed by brine (×1). The organics were dried over MgSO4 before removing the solvent in vacuo. The crude material was purified by silica chromatography (5:1>2:1, hep EtOAc). The solvent was removed to give the title compound as a white solid (2.6 g, 76%). MS (ESI): m/z [M+H]+ 484.2

reactant | (S)-benzyl 5-(chloromethyl)-2,3-dihydro-1H-inden-2-ylcarbamate | 7.09 mmol, 2.24 g | ClCC=1C=C2C[C@H](CC2=CC1)NC(OCC1=CC=CC=C1)=O | C18H18ClNO2
reactant | methyl 3-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-5-(trifluoromethyl)benzoate | 7.09 mmol, 2.242 g | CC1(COB(OC1)C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F)C | C14H16BF3O4
reactant | sodium carbonate | 45.0 mmol, 22.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | 44.9 mL | C1CCOC1 | C4H8O
product | (S)-methyl 3-((2-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate | 2.6 g, 76% | C(C1=CC=CC=C1)OC(=O)N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C27H24F3NO4
